US07781426B2
A stirred solution of ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](methyl)amino]carbonyl}cyclohexyl)acetate (100 mg; 0.14 mmol) in EtOH (110 mL) was treated dropwise with 4 M KOH (1 mL). The reaction was stirred at room temperature and quenched with 10% citric acid after 2.5 h. The reaction was partitioned between EtOAc (50 mL) and H2O (50 mL) and the aqueous layer was extracted with EtOAc (3×50 mL). The combined extracts were washed with brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by reverse-phase HPLC and the desired product was lyophilized to afford (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](methyl)amino]carbonyl}cyclohexyl)acetic acid as a white solid. LCMS=685.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, mixture of atropisomers): δ 7.92 (s, 1 H), 7.80 (s, 1 H), 7.74 (s, 1 H), 7.29-7.21 (m, 2 H), 7.17-7.15 (m, 1 H), 5.67 (d, J=8.2 Hz, 1 H), 4.96 (d, J=14.7 Hz, 1 H), 4.22 (d, J=16.5 Hz, 1 H), 3.88 (d, J=15.1 Hz, 1 H), 3.41 (s, 3 H), 2.73-2.66 (m, 1 H), 2.28-2.24 (m, 1 H), 2.15-2.12 (m, 1 H), 2.01-1.50 (m, 8 H), 1.18-1.10 (m, 1 H), 0.76-0.68 (m, 3 H).

reactant | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](methyl)amino]carbonyl}cyclohexyl)acetate | 0.14 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(C(=O)[C@@H]1CC[C@H](CC1)CC(=O)OCC)C)C)(F)F | C32H33F9N2O6
reactant | KOH | 4 M, 1 mL | [OH-].[K+]
solvent | EtOH | 110 mL | CCO | C2H6O
product | (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](methyl)amino]carbonyl}cyclohexyl)acetic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(C(=O)[C@@H]1CC[C@H](CC1)CC(=O)O)C)C)(F)F | C30H29F9N2O6
